US05217999
α-Cyano-3,4-dihydroxycinnamthioamide
To 0.83 g (6mmol) 3,4-dihydroxybenzaldehyde and 0.7 g (7 mmol) cyanothioacetamide in 30 ml ethanol was added 4 drops of piperidine. The mixture was refluxed for 1 hour, poured into ice water, filtered and dried, giving 0.54 g (41% yield) of an orange solid, m.p. 213° C. Calculated analysis for C10H8N2O2S: C=54.54, H=3.64, N=12.73; found: C=54.44, H=3.87, N=12.91.

reactant | 3,4-dihydroxybenzaldehyde | 6mmol, 0.83 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | cyanothioacetamide | 7 mmol, 0.7 g | C(#N)CC(=S)N | C3H4N2S
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | piperidine | 4 drops | N1CCCCC1 | C5H11N
product | α-Cyano-3,4-dihydroxycinnamthioamide | 0.54 g, 41% yield | C(#N)C(C(N)=S)=CC1=CC(=C(C=C1)O)O | C10H8N2O2S
